US08802670B2
To a solution of 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (90 mg) in 1,2-dimethoxyethane (10 mL) was added 6-tributylstannanyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-]pyridine (219 mg) and copper(I)bromide-dimethylsulfide (84 mg) and the reaction stirred at room temperature for 10 min. Then, tetrakis(triphenylphosphine)palladium (0) (12 mg) was added and the reaction heated at reflux for 16 h. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (2×30 mL), aqueous brine solution (2×20 mL), dried (MgSO4), reduced in vacuo and purified by column chromatography to give 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-thieno[3,2-d]pyrimidine as a white solid.

reactant | 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-2-methylsulfanyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 90 mg | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)SC | C17H25N5O3S3
reactant | 6-tributylstannanyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-]pyridine | 219 mg | C(CCC)[Sn](C=1C=NC2=C(C1)N=CN2COCC[Si](C)(C)C)(CCCC)CCCC
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I)bromide dimethylsulfide | 84 mg | [Cu]Br.CSC
catalyst | tetrakis(triphenylphosphine)palladium | 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridin-6-yl]-thieno[3,2-d]pyrimidine | CS(=O)(=O)N1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=C2C(=NC1)N(C=N2)COCC[Si](C)(C)C | C28H40N8O4S2Si
